US09029487B2
Preparation of Intermediate, 2-iodo-4-(2,4,4-trimethylpentan-2-yl)phenol, (P2)
To a stirred solution of 10.30 g (50.00 mmol) of 4-(2,4,4-trimethylpentan-2-yl)phenol in 125 mL of methanol at 0° C., add 7.48 g (50.00 mmol) of NaI and 2.00 g (50 mmol) of NaOH. To the resulting mixture add 86 mL of 5% aqueous NaOCl solution (commercial bleach) over a one hour period. Stir the resulting slurry for one more hour at 0° C. Then add 30 mL of aqueous 10% Na2S2O3 solution, and acidify the resulting reaction mixture with addition of dilute hydrochloric acid. Extract the resulting mixture with methylene chloride, wash the resulting organic layer with brine, and dry it over anhydrous magnesium sulfate. Remove volatiles and purify the resulting residue by flash chromatography on silica gel eluting with 5 volume percent (vol %) ethyl acetate in hexanes to yield 11.00 g (66%) of (P2) as a viscous oil.

reactant | 4-(2,4,4-trimethylpentan-2-yl)phenol | 50.00 mmol, 10.30 g | CC(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
reactant | NaI | 50.00 mmol, 7.48 g | [Na+].[I-]
reactant | NaOH | 50 mmol, 2.00 g | [OH-].[Na+]
reactant | NaOCl | 86 mL | [O-]Cl.[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 125 mL | CO | CH4O
product | 2-iodo-4-(2,4,4-trimethylpentan-2-yl)phenol | IC1=C(C=CC(=C1)C(C)(CC(C)(C)C)C)O | C14H21IO
